US08420811B2
Preparation of di-tert-butyl (6-chloropyridazin-3-yl)imidodicarbonate (Compound 11)
To a solution of 6-chloropyridazin-3-amine (75 g, 579 mmol) in DMF (600 ml) was added di-tert-butyl dicarbonate (278 g, 1274 mmol) and DMAP (0.6 g, 4.91 mmol) to give a suspension. The mixture was heated to 50° C. to give an orange solution and the reaction temperature reached 75° C. by itself with gas bubbles generated. The heating mantel was removed and the reaction was cooled to 55° C. slowly. Then the reaction was stirred at 55° C. with heating for 2 h to give a dark brown solution. After the reaction was cooled to room temperature, the reaction solution was poured to a 4 L beaker and water (3 L) was added to give a light brown suspension. The yellow precipitate was collected by filtration and washed with water (4 L). No product was dissolved in water. The solid was dried in oven overnight to give product (152.2 g, 80% yield) as a light yellow solid.

reactant | 6-chloropyridazin-3-amine | 579 mmol, 75 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | di-tert-butyl dicarbonate | 1274 mmol, 278 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 3 L | O | H2O
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 4.91 mmol, 0.6 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | di-tert-butyl (6-chloropyridazin-3-yl)imidodicarbonate | 152.2 g, 80% yield | ClC1=CC=C(N=N1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H20ClN3O4
